US07868188B2
6.3 minutes); 1H NMR Spectrum: (CDCl3) 8.79 (1H, br s); 8.69 (1H, d); 7.50 (1H, d); 3.37 (3H, s); 2.44 (3H, s); 2.31 (3H; s); Mass Spectrum: M+H+ 346.
5-Bromo-2-chloro-3-nitropyridine was prepared according the method described by K. Jouve and J. Bergman, J. Heterocyclic Chem., 40, 261 (2003) from 2-amino-5-bromo-3-nitropyridine except that one equivalent of lithium chloride was added and the yield was improved to 84%. The required product gave the characterising data:—1H NMR Spectrum: (CDCl3) 8.70 (1H, d); 8.37 (1H, d).

reactant | 2-amino-5-bromo-3-nitropyridine | NC1=NC=C(C=C1[N+](=O)[O-])Br | C5H4BrN3O2
reactant | lithium chloride | one equivalent | [Cl-].[Li+]
product | 5-Bromo-2-chloro-3-nitropyridine | BrC=1C=C(C(=NC1)Cl)[N+](=O)[O-] | C5H2BrClN2O2
